* C:\Users\dcyle\Desktop\1UoA\2024\ELECT310\ee310-team16\Phase3-Receiver\newLTspice\RX.asc
V1 Vcc+ 0 5
V2 0 Vcc- 0
V3 U1+ 0 2.2
V4 U2- 0 2.2
C3 N003 0 0.33µ
C4 N004 0 0.01µ
XU3 0 N004 N003 LT1086-5
XU4 N006 N001 Vcc+ Vcc- N002 TLC081
R1 N002 N001 10k
R3 N006 Vcc+ 680
R4 N002 N005 560
R5 0 N006 560
C2 N002 N001 10p
C6 N005 0 22p
C7 N006 0 22p
I1-100%FULL N007 0 PULSE(0 1.5e-7 0 1n 1n 0.000063 0.000126)
C0 N007 0 4p
XU2 U1+ N007 Vcc+ 0 J2 TLC081
C1 J2 N007 10p
R2 J2 N007 100k
C14 0 Vcc+ 0
C13 0 Vcc+ 22p
Rleak N007 0 4e9
XU1 N009 N008 Vcc+ 0 J3 TLC081
C5 N009 J2 10n
R10 U1+ N009 15k
R11 U1+ N008 10k
R6 J3 U1+ 10k
XU6 N015 U1+ Vcc+ 0 N011 LM393A
R7 Vcc+ N011 2.7k
R12 N015 J3 15k
R14 N011 N015 27k
D1 N011 N012 1N4148
C11 N013 N012 1n
R20 N013 N012 10k
R21 0 N013 10k
XU7 N014 U1+ Vcc+ 0 N016 TLC081
R19 N014 N013 10k
R16 Vcc+ N016 2.7k
C12 J4 0 10n
R18 J4 N016 56k
XU5 J4 N019 Vcc+ 0 N020 TLC081
R8 N020 N019 10k
R13 N020 N017 2.7k
C8 N020 N019 10p
XU8 N021 N017 Vcc+ 0 N018 TLC081
R9 N018 N017 27k
C16 0 Vcc+ 0
C15 0 Vcc+ 22p
C10 N021 0 22p
R17 N021 0 1.5k
R15 Vcc+ N021 10k
C§mod N018 N017 10n
I2-0%FULL NC_01 0 PULSE(0 1.5e-7 0 1n 1n 0.000042 0.000084)
.model D D
.lib C:\Users\dcyle\Documents\LTspiceXVII\lib\cmp\standard.dio
.include TLC081.mod
.tran 0 10m 9m
.include KA3529.txt
.include LM393A.txt
.lib LT1083.lib
.backanno
.end
